US06599925B2
Following the procedure described in Step 3 of Example 23, 2-{[6-(1-benzofuran-2-yl)-1-chloro-2-naphthyl]oxy}acetonitrile (6.12 g, 18.3 mmol) was acylated with valeryl chloride (2.2 mL, 19 mmol) in presence of tin (IV) chloride (2.2 mL, 19 mmol) in methylene chloride (37 mL). Purification by HPLC using 20% ethyl acetate in hexane as the mobile phase yielded 2-{[1-chloro-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile as a yellow waxy solid (2.55 g), mp 86-89° C. Mass spectrum (+ESI, [M+H]+) m/z 418. 1HNMR (500 MHz, DMSO-d6): δ8.55 (d, 1H, J=1.4 Hz), 8.3 (d, 1H, J=8.9 Hz), 8.25 (d, 1H, J=9.2 Hz), 8.0-8.05 (m, 2H), 7.75-7.8 (m, 2H), 7.4-7.5 (m, 2H), 5.5 (s, 2H), 2.75 (t, 2H, J=7.3 Hz), 1.5-1.6 (m, 2H), 1.1-1.2 (m, 2H), and 0.75 ppm (t, 3H, J=7.4 Hz). Elemental Analysis for C12H20ClNO3: Calculated: C, 71.85; H, 4.82; N, 3.35. Found: C, 71.73; H, 4.59; N, 3.15.

reactant | 2-{[6-(1-benzofuran-2-yl)-1-chloro-2-naphthyl]oxy}acetonitrile | 18.3 mmol, 6.12 g | O1C(=CC2=C1C=CC=C2)C=2C=C1C=CC(=C(C1=CC2)Cl)OCC#N | C20H12ClNO2
reactant | valeryl chloride | 19 mmol, 2.2 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | 19 mmol, 2.2 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 37 mL | C(Cl)Cl | CH2Cl2
product | 2-{[1-chloro-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile | ClC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC#N | C25H20ClNO3
